US08859574B2
To a mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (0.10 mmol) and triethylamine (83 uL, 0.6 mmol) in DMF (1.5 mL), was added 2-chloro-5-ethylpyrimidine (27 mg, 0.20 mmol). The mixture was heated in a microwave at 120° C. for 10 min. The reaction was filtered and the filtrate was purified by preparative RP-HPLC to afford 5-chloro-N2-(4-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-2-fluoro-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as a white solid. ESMS m/z 522.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.10 mmol | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | triethylamine | 0.6 mmol, 83 uL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5-ethylpyrimidine | 0.20 mmol, 27 mg | ClC1=NC=C(C=N1)CC | C6H7ClN2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5-chloro-N2-(4-(1-(5-ethylpyrimidin-2-yl)piperidin-4-yl)-2-fluoro-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)C1=NC=C(C=N1)CC)F)NC1=NNC(=C1)C | C26H29ClFN9
